US06143764
N-(2,6-Diisopropylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [223]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (54 mg) was suspended in toluene (5 ml), after the addition of triethylamine (1 ml), triphosgene (53 mg) was added, and the admixture was refluxed with heat for 8 minutes. 2,6-Diisopropylaniline (0.05 ml) was added to the reaction mixture, and the admixture was refluxed with heat for 15 minutes. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 69 mg of the title compound (yield: 76%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 54 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | triphosgene | 53 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,6-Diisopropylaniline | 0.05 ml | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | N-(2,6-Diisopropylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 69 mg, yield: 76% | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C30H33N3O4
